US09326987B2
6-(1H-Indol-4-yl)-4-{5-[(phenylsulfonyl)methyl]-1,3,4-oxadiazol-2-yl}-1H-indazole
4-[5-(Chloromethyl)-1,3,4-oxadiazol-2-yl]-6-(1H-indol-4-yl)-1-(phenylsulfonyl)-1H-indazole (60 mg, 0.110 mmol) and sodium benzenesulfinate dihydrate (33.1 mg, 0.165 mmol, available from TCI Europe) in ethanol (0.8 ml) were heated under microwave irradiation to 100° C. for 30 mins then 150° C. for 20 mins. The mixture was treated with dichloromethane (3 ml) and methanol (3 ml) and absorbed onto Florisil. This was placed on top a silica cartridge (10 g) and eluted with 0-100% ethyl acetate/cyclohexane and then 0-20% methanol/ethyl acetate. Appropriate fractions were combined and concentrated to give a yellow solid, 33 mg. The solid was treated with isopropanol (1 ml) and 2M aqueous sodium hydroxide (0.999 ml, 1.998 mmol) and stirred at 20° C. for 22 h. The mixture was neutralised with 2M aqueous hydrochloric acid, blown to dryness and purified by Mass Directed Automated Preparative H PLC. Appropriate fraction was evaporated, then azeotroped with methanol to give the title compound as a white solid (8 mg).

reactant | 4-[5-(Chloromethyl)-1,3,4-oxadiazol-2-yl]-6-(1H-indol-4-yl)-1-(phenylsulfonyl)-1H-indazole | 0.110 mmol, 60 mg | ClCC1=NN=C(O1)C1=C2C=NN(C2=CC(=C1)C1=C2C=CNC2=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C24H16ClN5O3S
reactant | sodium benzenesulfinate dihydrate | 0.165 mmol, 33.1 mg | O.O.C1(=CC=CC=C1)S(=O)[O-].[Na+]
reactant | sodium hydroxide | 1.998 mmol, 2M, 0.999 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | ethanol | 0.8 ml | C(C)O | C2H6O
solvent | isopropanol | 1 ml | C(C)(C)O | C3H8O
solvent | methanol | 3 ml | CO | CH4O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 6-(1H-Indol-4-yl)-4-{5-[(phenylsulfonyl)methyl]-1,3,4-oxadiazol-2-yl}-1H-indazole | 8 mg | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NNC2=C1)C=1OC(=NN1)CS(=O)(=O)C1=CC=CC=C1 | C24H17N5O3S
